US03988341
A mixture of 1.65 g. (10 mmole) of racemic phenylalanine and 1.27 g. (10 mmole) of benzyl chloride in 10 ml. dimethylsulfoxide is stirred at 60° C. for 7 hours and then allowed to cool. Dimethylsulfoxide is removed by stirring four times with 25 ml. ethyl ether and then decanting off the ethyl ether. The residue is stirred with 25 ml. hot ethanol, filtered from some insoluble solid and the filtrate diluted with 100 ml. ethyl ether to precipitate the ester hydrochloride. After filtering and drying, essentially pure benzyl phenylalaninate hydrochloride is obtained. Recrystallization from a warm mixture of 8 ml. water and 1 ml. 0.1 N hydrochloric acid gives an analytical sample, m.p. 190.5-192.5° C.

reactant | racemic phenylalanine | 10 mmole | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | benzyl chloride | 10 mmole | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | benzyl phenylalaninate hydrochloride | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C16H17NO2.ClH/c17-15(11-13-7-3-1-4-8-13)16(18)19-12-14-9-5-2-6-10-14;/h1-10,15H,11-12,17H2;1H/t15-;/m0./s1
